US07960349B2
Methyl 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoate
A solution of dimethyl 2-methoxy-2-((1-trityl-1H-imidazol-4-yl)methyl)malonate (0.1520 g, 0.31 mmol) and sodium chloride (0.0398 g, 0.68 mmol) in NMP (2 mL) and water (0.3 mL) was heated to 201° C. for 1 hr. After cooling to room temperature, ethyl acetate (15 mL) was added and the organic layer was washed with water (2×10 mL), saturated sodium chloride (1×10 mL) and then dried over NaSO4. Solvent removal yielded 0.1030 g of crude product. This was purified by chromatography on a silica gel 60 (11 g, 0.040 to 0.063 mm particle size) column (2.5×10 cm) using CHCl3/MeOH (98:2) as the eluent and collecting 12 mL fractions. Fractions 2 to 10 were pooled and dried, and the residue was re-purified as above, except that 5 g of silica gel was used and the eluent was CHCl3/MeOH (99:1). Fractions 10 to 16 were pooled and afforded, after drying, 0.0592 g (45%) of 94.5% pure methyl 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoate; retention time, 7.29 min.; column: YMC ODS-A (3 μm, 50×4.6 mm); gradient: 10% to 100% B in A over 10 min. at 1.25 mL/min. Solvent A: 0.1% TFA in water, Solvent B: 0.1% TFA in AcCN. LC/MS: ESI (M+H)+=427.1.

reactant | dimethyl 2-methoxy-2-((1-trityl-1H-imidazol-4-yl)methyl)malonate | 0.31 mmol, 0.1520 g | COC(C(=O)OC)(C(=O)OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28N2O5
reactant | sodium chloride | 0.68 mmol, 0.0398 g | [Cl-].[Na+]
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | water | 0.3 mL | O | H2O
product | Methyl 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoate | 0.1030 g | COC(C(=O)OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26N2O3
